US20010047031A1
A solution of 2-indolinone (2.66 g, 20 mmol) in acetic acid (20 ml) was stirred at room temperature in the presence of N-iodosuccinimide (5.4 g, 24 mmol) for 2 hours. H2O (150 ml) was then added. The precipitate was filtered, washed with H2O, and dried. The resulting, solid was refluxed in ethyl acetate (50 ml), cooled to 0° C., filtered, washed with ethylacetate and ether and dried to provide 5-iodo-1,3-dihydro-indol-2-one (3.62 g. 70%) as a beige solid, m.p. 190-192° C. and MS: m/e=259 (M+).

reactant | 2-indolinone | 20 mmol, 2.66 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-iodosuccinimide | 24 mmol, 5.4 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | H2O | 150 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-iodo-1,3-dihydro-indol-2-one | 3.62 g, 70% | IC=1C=C2CC(NC2=CC1)=O | C8H6INO
